US07019453B2
Compound 32 intermediates: To a solution of 4-(trifluorovinyloxy)-bromobenzene (9.25 g, 36.6 mmol) in dry diethyl ether (60 mL) at −78° C. was added t-BuLi (23.7 mL, 1.7 M in pentane) dropwise. One hour later, DMF (4.3 mL, 1.5 eq) was added dropwise. The reaction mixture was stirred at −78° C. for 1 h. Then the reaction mixture was allowed to warm up to room temperature for about 45 min, and quenched by adding water (10 mL). The ethereal layer was collected and the aqueous layer was extracted with diethyl ether. The combined organic layer was washed with water twice (50 mL×2), and dried over sodium sulfate. After filtration and evaporation of the solvent, the product was dried in vacuum overnight to give 4-(trifluorovinyloxy)benzaldehyde as yellow oil, which can be used in next step without further purification. 1H NMR (CDCl3): δ 10.18 (s, 1H), 7.85 (d, J=8.8 Hz, 2H), 7.17 (d, J=8.8 Hz, 2H).

reactant | 4-(trifluorovinyloxy)-bromobenzene | 36.6 mmol, 9.25 g | FC(=C(F)F)OC1=CC=C(C=C1)Br | C8H4BrF3O
reactant | t-BuLi | 1.7 M, 23.7 mL | [Li]C(C)(C)C
reactant | DMF | 4.3 mL, 1.5 eq | CN(C)C=O | C3H7NO
solvent | diethyl ether | 60 mL | C(C)OCC | C4H10O
product | 4-(trifluorovinyloxy)benzaldehyde | FC(=C(F)F)OC1=CC=C(C=O)C=C1 | C9H5F3O2
